US08222266B2
4-(2-methyl-3-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2(1H)-pyrimidinone hydrochloride (E6)
4-(2-Methyl-pyridin-3-yl)-1-{4-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-butyl}-1H-pyrimidin-2-one was treated with 4N HCl in dioxane (1 eq), to give the title compound.

reactant | 4-(2-Methyl-pyridin-3-yl)-1-{4-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-butyl}-1H-pyrimidin-2-one | CC1=NC=CC=C1C1=NC(N(C=C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H27F3N4O
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 1 eq | O1CCOCC1 | C4H8O2
product | 4-(2-methyl-3-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2(1H)-pyrimidinone hydrochloride | Cl.CC1=NC=CC=C1C1=NC(N(C=C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O | InChI=1S/C26H27F3N4O.ClH/c1-18-22(5-4-11-30-18)23-10-14-33(24(34)31-23)13-3-2-12-32-16-21-15-25(21,17-32)19-6-8-20(9-7-19)26(27,28)29;/h4-11,14,21H,2-3,12-13,15-17H2,1H3;1H/t21-,25+;/m0./s1
